US04672066
(4-Acetyl-3-hydroxy-2-propylphenoxy)acetic acid was allowed to react with 3-pyridine butanamine according to procedure A and the product was purified by chromatography on silica gel to give (4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(3-pyridinyl)butyl]acetamide, the title compound, mp 95°-97° (from methylene chloride-ether) in 57% yield.

reactant | (4-Acetyl-3-hydroxy-2-propylphenoxy)acetic acid | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)O | C13H16O5
reactant | 3-pyridine butanamine | N1=CC(=CC=C1)CCCCN | C9H14N2
product | (4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(3-pyridinyl)butyl]acetamide | C(C)(=O)C1=C(C(=C(OCC(=O)NCCCCC=2C=NC=CC2)C=C1)CCC)O | C22H28N2O4
